US09359338B2
Step 3: Synthesis of 3-(4-(2-fluoroethyl)piperazin-1-yl)-5-(trifluoromethyl)aniline
Stir the mixture of 1-(2-fluoroethyl)-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine (120 mg, 0.50 mol) and Pd/C (10%, 30 mg) in methanol (5 mL) under hydrogen atmosphere for 2 hrs at room temperature. Filter and concentrate the filtrate under reduced pressure to afford the white solid as the target compound (90 mg, 84%).

reactant | 1-(2-fluoroethyl)-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine | 0.50 mol, 120 mg | FCCN1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F4N3O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 3-(4-(2-fluoroethyl)piperazin-1-yl)-5-(trifluoromethyl)aniline | 90 mg, 84% | FCCN1CCN(CC1)C=1C=C(N)C=C(C1)C(F)(F)F | C13H17F4N3
